US07256219B2
1-[2,5-Bis(2,2,2-trifluoroethoxy)phenyl]-3-(4-chlorophenyl)-2-propen-1-one
The title compound was prepared by stirring a mixture of 2,5-bis(2,2,2-trifluoroethoxy)acetophenone (200 mg, 0.633 mmol), 4-chlorobenzaldehyde (89 mg, 0.633 mmol), methanol (5 ml) and saturated NaOH (200 ul) at room temperature for 4 h. The mixture was diluted with ethyl acetate (100 ml), wash with water (50 ml) and saturated aqueous NaCl (50 ml), dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was purified by column chromatography using hexane:ethyl acetate (5:1, 4:1) to give a yellow solid (143 mg, 51%). 1H NMR (CDCl3): 7.65 (d, J=15.9 Hz, 1H), 7.54 (d, J=8.4 Hz, 2H), 7.44 (d, J=15.9 Hz, 1H), 7.38 (d, J=8.4 Hz, 2H), 7.31 (d, J=3.3 Hz, 1H), 7.14 (dd, J=3.3, 9.3 Hz, 1H), 6.95 (d, J=9.0 Hz, 1H), 4.45-4.32 (m, 4H).

reactant | 2,5-bis(2,2,2-trifluoroethoxy)acetophenone | 0.633 mmol, 200 mg | CC(=O)C1=C(C=CC(=C1)OCC(F)(F)F)OCC(F)(F)F | C12H10F6O3
reactant | 4-chlorobenzaldehyde | 0.633 mmol, 89 mg | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | methanol | 5 ml | CO | CH4O
reactant | NaOH | 200 ul | [OH-].[Na+]
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 1-[2,5-Bis(2,2,2-trifluoroethoxy)phenyl]-3-(4-chlorophenyl)-2-propen-1-one | FC(COC1=C(C=C(C=C1)OCC(F)(F)F)C(C=CC1=CC=C(C=C1)Cl)=O)(F)F | C19H13ClF6O3
